US04005208
A mixture of 11.5 g. of 3-phthalimidopiperidine and 2.85 g. of methyl isocyanate in 100 ml. of dry benzene is stirred at 25° C. for 2 hours. The resulting mixture is concentrated in vacuo and filtered to give 1-(N-methylcarbamoyl)-3 -phthalimidopiperidine. Treating this phthalimidopiperidine with hydrazine hydrate by the procedure of Example 17 gives 1-(N-methylcarbamoyl)-3-aminopiperidine.

reactant | 3-phthalimidopiperidine | C1(C=2C(C(N1C1CNCCC1)=O)=CC=CC2)=O | C13H14N2O2
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(N-methylcarbamoyl)-3 -phthalimidopiperidine | CNC(=O)N1CC(CCC1)N1C(C=2C(C1=O)=CC=CC2)=O | C15H17N3O3
